US08293925B2
Synthesis of (3R)-1-(2,6-dimethylphenyl)-3-isopropyl-5-oxo-pyrrolidine-3-carboxylic acid [3,5-bis(trifluoromethyl)phenyl]amide
Methanesulfonyl chloride (167 mg, 1.45 mmol) was added dropwise to a solution of enantiopure (3R)-1-(2,6-dimethylphenyl)-3-isopropyl-5-oxo-pyrrolidine-3-carboxylic acid (182 mg, 0.661 mmol, prepared in step a above), N,N-diisopropylethylamine (374 mg, 2.90 mmol) and 3,5-bis(trifluoromethyl)aniline (331 mg, 1.45 mmol) in THF (4 mL). Stirring at room temperature for 1 h allowed the reaction to reach completion, whereupon 5 mL of 0.3 M aqueous hydrochloric acid and 10 mL of DCM were added and the mixture was stirred vigorously for 5 min. The separated organic phase was concentrated in vacuo on silica gel and purified by flash chromatography (SiO2, 25-60% EtOAc/hexanes) to give an off-white residue, which was recrystallized from a mixture of hot ethyl acetate (2 mL) and hexanes (7 mL) to give 203 mg of the desired compound (63% yield) as colorless crystals. 1H NMR (400 MHz, CDCl3) 1.09 (d, J=7.4, 3H), 1.11 (d, J=7.4, 3H), 2.13 (s, 3H), 2.23 (s, 3H), 2.26 (qq, J=7.4, 7.4, 1H), 2.81 (d, J=17.2, 1H), 3.09 (d, J=17.2, 1H), 3.61 (d, J=10.4, 1H), 4.17 (d, J=10.4, 1H), 7.02-7.18 (m, 3H), 7.64 (s, 1H), 7.86 (s, 1H), 8.05 (s, 2H). LC-MS: Rt (retention time)=3.10 min, MS: (ES) m/z 487 (M+H+).

reactant | Methanesulfonyl chloride | 1.45 mmol, 167 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | (3R)-1-(2,6-dimethylphenyl)-3-isopropyl-5-oxo-pyrrolidine-3-carboxylic acid | CC1=C(C(=CC=C1)C)N1C[C@](CC1=O)(C(=O)O)C(C)C | C16H21NO3
reactant | N,N-diisopropylethylamine | 2.90 mmol, 374 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,5-bis(trifluoromethyl)aniline | 1.45 mmol, 331 mg | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | hydrochloric acid | 0.3 M, 5 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (3R)-1-(2,6-dimethylphenyl)-3-isopropyl-5-oxo-pyrrolidine-3-carboxylic acid [3,5-bis(trifluoromethyl)phenyl]amide | 203 mg, 63% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)[C@@]1(CN(C(C1)=O)C1=C(C=CC=C1C)C)C(C)C)(F)F | C24H24F6N2O2
